US06809110B2
In analogy to the procedure described in example 125 a], methyl heptanoate was deprotonated with lithium diisopropylamide and reacted with 4-benzyloxy-2-methyl-benzaldehyde in tetrahydrofuran to obtain 2-[(4-benzyloxy-2-methyl-phenyl)-hydroxy-methyl]-heptanoic acid methyl ester as a mixture of two diastereomeric racemates as light yellow oil.

reactant | methyl heptanoate | C(CCCCCC)(=O)OC | C8H16O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-benzyloxy-2-methyl-benzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)C | C15H14O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[(4-benzyloxy-2-methyl-phenyl)-hydroxy-methyl]-heptanoic acid methyl ester | COC(C(CCCCC)C(O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)C)=O | C23H30O4
